US08084448B2
E. (2-Benzyloxy-4-chlorophenylamino)-acetic Acid Methyl Ester
A solution of [(2-benzyloxy-4-chlorophenyl)-tert-butoxycarbonylamino]-acetic acid methyl ester (14.95 g, 36.8 mmol) in 180 mL of TFA/methylene chloride (1:2) is stirred at RT for 45 min. The solvent is removed under reduced pressure and the residue is dissolved in EtOAc (500 mL). To this solution is added diisopropylethylamine (13.11 g) and the resulting precipitate is filtered. The filtrate is evaporated to give the title compound as a tan solid. (M+1)=306.

reactant | [(2-benzyloxy-4-chlorophenyl)-tert-butoxycarbonylamino]-acetic acid methyl ester | 36.8 mmol, 14.95 g | COC(CN(C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)OCC1=CC=CC=C1)=O | C21H24ClNO5
solvent | TFA methylene chloride | 180 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (2-Benzyloxy-4-chlorophenylamino)-acetic Acid Methyl Ester | COC(CNC1=C(C=C(C=C1)Cl)OCC1=CC=CC=C1)=O | C16H16ClNO3
